US05763437
To a suspension of sodium hydride (0.11 g of a 60% dispersion in mineral oil) in N,N-dimethylformamide (20 ml) was added gradually (3RS)-2,3-dihydro-5-(2-fluorophenyl)-3-phthalimido-1H-1,4-benzodiazepin-2-one (1.00 g) under nitrogen atmosphere at cooling in an ice-bath. The mixture was stirred under the same condition for 0.5 hour and at ambient temperature for 1 hour. The mixture was cooled in an ice-bath and a solution of 6-bromomethyl coumarin (0.66 g) in N,N-dimethylformamide (5 ml) was added dropwise thereto. The mixture was stirred for 1 hour at the same temperature and at ambient temperature overnight. To the reaction mixture was added acetic acid (0.5 g) under cooling in an ice-bath. The resultant mixture was poured into a mixture of ethyl acetate (100 ml) and water (50 ml) under stirring. The mixture was adjusted to pH 7.5 with sodium bicarbonate. The organic layer was separated. The aqueous layer was extracted with ethyl acetate (50 ml). The combined organic layer was washed with a brine (30 ml), dried over magnesium sulfate, filtered and concentrated in vacuo to afford a crude product. The crude product was purified by column chromatography on silica gel (eluent : CHCL3) to afford (3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(2-oxo-2H-1-benzopyran-6-yl)methyl-3-phthalimido-1H-1,4-benzodiazepin-2-one as a colorless crystalline solid (1.30 g).

reactant | sodium hydride | [H-].[Na+]
reactant | (3RS)-2,3-dihydro-5-(2-fluorophenyl)-3-phthalimido-1H-1,4-benzodiazepin-2-one | 1.00 g | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=CC=C2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C23H14FN3O3
reactant | 6-bromomethyl coumarin | 0.66 g | BrCC=1C=C2C=CC(OC2=CC1)=O | C10H7BrO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.5 g | C(C)(=O)O | C2H4O2
product | (3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(2-oxo-2H-1-benzopyran-6-yl)methyl-3-phthalimido-1H-1,4-benzodiazepin-2-one | 1.30 g | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2)CC=2C=CC1=C(C=CC(O1)=O)C2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C33H20FN3O5
